US06503907B2
A mixture of 30 mg (0.091 mmol) {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methylamine, 2 mg (0.009 mmol) Pd(OAc)2, 7 mg (0.02 mmol) (dicyclohexylphosphino)-biphenyl, 44 mg (0.46 mmol) sodium tert-butoxide, and 20 mg (0.1 mmol) 4-bromopyridine hydrochloride in 1 ml of degassed toluene was stirred in a pressure tube at 120° C. during 16 hours. After cooling to room temperature the mixture was treated with 0.5M aqueous NaOH and extracted three times with Et2O. Drying of the combined organic layers with Na2SO4, evaporation of the solvent, and column chromatography on silica gel with EtOAc/NEt3 100:3 gave 30 mg (81%) of {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-pyridin-4-yl-amine as a light yellow oil, MS: 390 (MH+). (In analogy to L. Buchwald et al. J. Org. Chem. 2000, 65, 1158-1174).

reactant | {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methylamine | 0.091 mmol, 30 mg | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OCCCCNC | C19H21FN2O
reactant | (dicyclohexylphosphino)-biphenyl | 0.02 mmol, 7 mg | C1(CCCCC1)P(C1CCCCC1)C1=C(C=CC=C1)C1=CC=CC=C1 | C24H31P
reactant | sodium tert-butoxide | 0.46 mmol, 44 mg | CC(C)([O-])C.[Na+]
reactant | 4-bromopyridine hydrochloride | 0.1 mmol, 20 mg | Cl.BrC1=CC=NC=C1
reactant | NaOH | 0.5M | [OH-].[Na+]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.009 mmol, 2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-pyridin-4-yl-amine | 30 mg, 81% | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OCCCCN(C1=CC=NC=C1)C | C24H24FN3O
